US05962458
Diethyl azodicarboxylate (295 μl, 1.8 mmol) was added dropwise to a solution of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (300 mg, 0.93 mmol), (prepared as described for the starting material in Example 24), 2-(1,2,4-triazol-1-yl)ethanol (159 mg, 1.4 mmol), (Ann. Pharm. Fr. 1977, 35, 503-508), and triphenylphosphine (492 mg, 1.8 mmol) in methylene chloride (10 ml). The mixture was stirred for 2 hours at ambient temperature and further triphenylphosphine (246 mg, 0.9 mmol) and diethyl azodicarboxylate (147 μl, 0.9 mmol) were added. The mixture was stirred for 1 hour at ambient temperature and the resulting precipitate was collected by filtration, washed with methylene chloride and ether and dried under vacuum. This solid was suspended in methylene chloride/methanol and a 5M solution of hydrogen chloride in isopropanol (1.0 ml) was added. The volatiles were removed by evaporation, the residue was triturated with ether. The resulting solid was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)4-methoxy-7-(2-(1,2,4-triazol-1-yl)ethoxy)quinazoline hydrochloride (219 mg, 52%). m.p. 169-174° C.

reactant | Diethyl azodicarboxylate | 1.8 mmol, 295 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.93 mmol, 300 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 2-(1,2,4-triazol-1-yl)ethanol | 1.4 mmol, 159 mg | N1(N=CN=C1)CCO | C4H7N3O
reactant | triphenylphosphine | 1.8 mmol, 492 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.9 mmol, 246 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.9 mmol, 147 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)4-methoxy-7-(2-(1,2,4-triazol-1-yl)ethoxy)quinazoline hydrochloride | 219 mg, 52% | Cl.ClC1=CC(=C(NC2(NC=NC3=CC(=CC=C23)OCCN2N=CN=C2)OC)C=C1)F | InChI=1S/C19H18ClFN6O2.ClH/c1-28-19(26-17-5-2-13(20)8-16(17)21)15-4-3-14(9-18(15)23-11-24-19)29-7-6-27-12-22-10-25-27;/h2-5,8-12,26H,6-7H2,1H3,(H,23,24);1H
